US04067720
0.5 ml of triethylamine and 4.78 g of methyl isocyanate were added to a solution of 95 g of 3-hydroxy-5-n-butylthio-1,2,4-thiadiazole in 50 ml of isopropyl ether and the mixture was stirred for 2 hours at 20° C and was vacuum filtered. The recovered precipitate was washed with isopropyl ether and dried to obtain 11.2 g of 2-(N-methylcarbamoyl)-5-n-butylthio-1,2,4-thiadiazole-3-one melting at 102° C.

reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 4.78 g | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-n-butylthio-1,2,4-thiadiazole | 95 g | OC1=NSC(=N1)SCCCC | C6H10N2OS2
solvent | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
product | 2-(N-methylcarbamoyl)-5-n-butylthio-1,2,4-thiadiazole-3-one | 11.2 g | CNC(=O)N1SC(=NC1=O)SCCCC | C8H13N3O2S2
